US08389524B2
(a) 6-[(E)-2-Phenylethenyl][1,2,5]thiadiazolo[3,4-b]pyridine
To 6-bromo[1,2,5]thiadiazolo[3,4-b]pyridine (for a preparation see Indian Journal of Chemistry, Section B: Organic Chemistry Including Medicinal Chemistry (1979), 17B(1), 13-16) (1.9 g, 8.79 mmol), [(E)-2-phenylethenyl]boronic acid (1.561 g, 10.55 mmol) and tetrakistriphenylphosphine palladium(0) (0.508 g, 0.440 mmol) was added 1,4-dioxane (38 ml) and then potassium carbonate (1.276 g, 9.23 mmol) in water (19 ml). The reaction was then stirred at reflux for 1.5 hours. The cooled reaction was partitioned between chloroform and water. The phases were separated with a hydrophobic frit and the organic extracts concentrated to give a black solid/gum (˜2.4 g). This crude material was purified by chromatography on silica eluting with 20-50% EtOAc in cyclohexane to give the product as a yellow/brown solid (0.88 g).

reactant | 6-bromo[1,2,5]thiadiazolo[3,4-b]pyridine | BrC1=CC=2C(N=C1)=NSN2 | C5H2BrN3S
reactant | [(E)-2-phenylethenyl]boronic acid | 10.55 mmol, 1.561 g | C1(=CC=CC=C1)/C=C/B(O)O | C8H9BO2
reactant | 1,4-dioxane | 38 ml | O1CCOCC1 | C4H8O2
reactant | potassium carbonate | 9.23 mmol, 1.276 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 19 ml | O | H2O
product | 6-[(E)-2-Phenylethenyl][1,2,5]thiadiazolo[3,4-b]pyridine | ˜2.4 g | C1(=CC=CC=C1)/C=C/C1=CC=2C(N=C1)=NSN2 | C13H9N3S
